US05574042
To a solution of ethyl 4-aminocinnamate (150 mg) and triethylamine (94 mg) in methylene chloride (3 ml) was added mesyl chloride (0.08 ml) under ice-cooling under nitrogen atmosphere, and the mixture was stirred at ambient temperature for 2 hours. The reaction mixture was poured into water, and extracted with methylene chloride twice. The combined organic layer was washed with water, dried over magnesium sulfate and concentrated to give a residue including ethyl 4-mesylaminocinnamate and ethyl 4-(N,N-dimesylamino)cinnamate. The residue was dissolved in ethanol, and 1N aqueous sodium hydroxide solution (1.5 ml) was added thereto at 40° C. The mixture was stirred at ambient temperature for 2 days, and 1N hydrochloric acid (1.5 ml) was added thereto. The mixture was concentrated in vacuo, and the residue was partitioned between 10% methanol-methylene chloride and water. The organic layer was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by preparative thin-layer chromatography (methylene chloride-methanol, 10:1 t, V/V) to give 4-mesylaminocinnamic acid (49.3 mg).

reactant | ethyl 4-aminocinnamate | 150 mg | NC1=CC=C(C=CC(=O)OCC)C=C1 | C11H13NO2
reactant | mesyl chloride | 0.08 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | ethyl 4-mesylaminocinnamate | S(=O)(=O)(C)NC1=CC=C(C=CC(=O)OCC)C=C1 | C12H15NO4S
reactant | ethyl 4-(N,N-dimesylamino)cinnamate | S(=O)(=O)(C)N(S(=O)(=O)C)C1=CC=C(C=CC(=O)OCC)C=C1 | C13H17NO6S2
reactant | sodium hydroxide | 1N, 1.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1.5 ml | Cl | ClH
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | triethylamine | 94 mg | C(C)N(CC)CC | C6H15N
product | 4-mesylaminocinnamic acid | 49.3 mg | S(=O)(=O)(C)NC1=CC=C(C=CC(=O)O)C=C1 | C10H11NO4S
